US07842696B2
DIPEA (397 mg, 3.08 mmol) was added drop wise to 4-(hydroxybenzoyl amino)-acetic acid (200 mg, 1.03 mmol) in DMF (6 mL). EDCI (294 mg, 1.54 mmol) and HOBT (166 mg, 1.23 mmol) were added consecutively and, after 15 mins, piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone (390 mg, 1.33 mmoles) was added. The resulting mixture was stirred at room temperature overnight. Water was then added, and the product was extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford the crude product. Purification using column chromatography (silica gel of mesh size of 60-120 using 70:30 EtOAc:hexane as eluent) afforded 4-hydroxy-N-[2-Oxo-2-trifluoromethyl-benzoyl)-piperazine-1-yl]-ethyl]-benzamide in 65% yield. LC-MS purity: 93%, 1H NMR (DMSO-D6): δ 10 (s, 1H), 8.3 (d, 1H), 7.8 (m, 5H), 7.5 (t, 1H), 6.8 (d, 2H), 4.1 (d, 2H), 3.6 (m, 5H), 3.1 (m, 3H).

reactant | DIPEA | 3.08 mmol, 397 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 1.54 mmol, 294 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 1.23 mmol, 166 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone | 1.33 mmoles, 390 mg | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | benzamide | 65% yield | C(C1=CC=CC=C1)(=O)N | C7H7NO
